US08802659B2
Compound methyl 1-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methyl)azetidine-3-carboxylate (140 mg, 0.34 mmol) and NCS (90 mg, 0.68 mmol, 2.0 eq.) were dissolved in MeCN (5 mL). Then CF3COOH (12 mg, 0.1 mmol, 0.3 eq.) was added to the mixture at 0° C. The mixture was warmed to r.t. and stirred for 1 h. Then the pH of the solution was adjusted to 7 with saturated Na2CO3, concentrated and the mixture was extracted by EtOAc. The organic layer was concentrated and purified by silica gel chromatography using PE/EA (6/1) to give product methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-chloronaphthalen-2-yl)methyl)azetidine-3-carboxylate (65 mg, 43%) as a slight yellow oil. EDI-MS (M+1)+: 444.0. 1H NMR (400 MHz, CDCl3) δ 8.16 (d, 1H), 7.69-7.66 (m, 2H), 7.50-7.47 (m, 1H), 7.28-7.27 (m, 1H), 4.25-4.19 (m, 1H), 3.77 (s, 2H), 3.72 (s, 3H), 3.59-3.58 (m, 2H), 3.38-3.37 (m, 3H), 2.23-2.20 (m, 2H), 1.88-1.85 (m, 2H), 1.61-1.52 (m, 2H), 1.12-1.07 (m, 3H), 0.87 (s, 9H).

reactant | methyl 1-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methyl)azetidine-3-carboxylate | 0.34 mmol, 140 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)C(F)(F)F | C27H34F3NO3
reactant | NCS | 0.68 mmol, 90 mg, 2.0 eq. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | CF3COOH | 0.1 mmol, 12 mg, 0.3 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeCN | 5 mL | CC#N | C2H3N
product | methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-chloronaphthalen-2-yl)methyl)azetidine-3-carboxylate | 65 mg, 43% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)Cl | C26H34ClNO3
